US06194406B1
1-(3-Methoxy-4,5-methylenedioxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine
Prepare by the method of Example 56.1 using 3-methoxy-4,5-methylenedioxybenzoic acid and 3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt (prepared from (−)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine(R,R)-di-p-anisoyltartaric acid salt) to give the title compound.

reactant | 3-methoxy-4,5-methylenedioxybenzoic acid | COC=1C=C(C(=O)O)C=C2C1OCO2 | C9H8O5
reactant | 3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt | Cl.C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCN(CCC2)CCC2(CNCC2)C2=CC=CC=C2
product | 1-(3-Methoxy-4,5-methylenedioxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CCOCC)C=CC=C3)C=C3C1OCO3 | C37H45N5O5
